US08686004B2
Under argon, 3-fluoro-5-(1,3-thiazol-2-yl)pyridine (0.99 g, 5.47 mmol) and 6-bromopyridin-2-carbonitrile (1.0 g, 5.47 mmol) were initially charged in DMF (15 ml). After 10 min, at room temperature, tris(2-methylphenyl)phosphine (0.13 g, 0.23 mmol) and palladium(II) chloride (0.1 g, 0.55 mmol) were added. The reaction mixture was stirred at 130° C. for 14 h. After cooling, water and ethyl acetate were added and the precipitated product was filtered off with suction. The organic phase of the filtrate was removed and the aqueous phase was extracted three times with ethyl acetate. The combined organic phases were dried over magnesium sulphate and the solvent was removed under reduced pressure. The residue was stirred with dichloromethane and filtered off with suction. This gave a total of 0.94 g (61% of theory) of 6-[2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carbonitrile.

reactant | 3-fluoro-5-(1,3-thiazol-2-yl)pyridine | 5.47 mmol, 0.99 g | FC=1C=NC=C(C1)C=1SC=CN1 | C8H5FN2S
reactant | 6-bromopyridin-2-carbonitrile | 5.47 mmol, 1.0 g | BrC1=CC=CC(=N1)C#N | C6H3BrN2
reactant | tris(2-methylphenyl)phosphine | 0.23 mmol, 0.13 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) chloride | 0.55 mmol, 0.1 g | [Pd](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carbonitrile | 0.94 g, 61% | FC=1C=C(C=NC1)C=1SC(=CN1)C1=CC=CC(=N1)C#N | C14H7FN4S
